US07053107B2
N-[4-(tert-Butyl-dimethyl-silanyloxy)-but-2-ynyl]-2-[3-[2-(4,6-dimethyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzamide
Prepared in a similar manner to that described for Example 33(a) step (v), in U.S. Pat. No. 6,531,491, issued Mar. 11, 2003, herein incorporated by reference in its entirety for all purposes, except using 4-(tert-Butyl-dimethyl-silanyloxy)-but-2-ynylamine and 2-[3-[2-(4,6-Dimethyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid. 1H NMR (DMSO-d6) δ 9.56 (1H, s), 9.01 (1H, t, J=5.7 Hz), 8.06 (1H, d, J=8.7 Hz), 7.81 (1H, d, J=16.4 Hz), 7.66 (1H, d, J=7.5 Hz), 7.41 (4H, m), 7.32 (1H, s), 7.09 (1H, dd, J=1.8, 8.7 Hz), 6.98 (1H, s), 6.89 (1H, t, J=8.0 Hz), 5.79 (1H, dd, J=2.4, 9.2 Hz), 4.28 (2H, s), 4.09 (2H, m), 3.86(1H,m), 3.72 (1H, m), 2.46 (3H, s), 2.42 (1H, m), 2.30 (3H, s), 2.08 (2H, m), 1.74 (1H, m), 1.57 (2H, m), 0.80 (9H, s), 0.03 (6H, s). Anal. Calcd for C38H47N5O3Si. 0.7 H2O: C, 68.89; H, 7.36; N, 10.57. Found: C, 68.99; H, 7.36; N, 10.21.

reactant | 4-(tert-Butyl-dimethyl-silanyloxy)-but-2-ynylamine | C(C)(C)(C)[Si](OCC#CCN)(C)C | C10H21NOSi
reactant | 2-[3-[2-(4,6-Dimethyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid | CC1=CC(=NC(=C1)C)C=CC1=NN(C2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1)C1OCCCC1 | C28H28N4O3
solvent | H2O | O | H2O
product | N-[4-(tert-Butyl-dimethyl-silanyloxy)-but-2-ynyl]-2-[3-[2-(4,6-dimethyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzamide | C(C)(C)(C)[Si](OCC#CCNC(C1=C(C=CC=C1)NC1=CC=C2C(=NN(C2=C1)C1OCCCC1)C=CC1=NC(=CC(=C1)C)C)=O)(C)C | C38H47N5O3Si
